US06642389B2
In analogy to the procedure described in examples 91 b], 5-benzyloxy-1,2,3,4-tetrahydro-naphthalene [J . Org. Chem. (2001), 66(5), 1775-1780] was treated with dichloromethyl methyl ether and titanium tetrachloride to give 4-benzyloxy-5,6,7,8-tetrahydro-naphthalene-1-carbaldehyde as yellow solid.

reactant | 5-benzyloxy-1,2,3,4-tetrahydro-naphthalene | C(C1=CC=CC=C1)OC1=C2CCCCC2=CC=C1 | C17H18O
reactant | dichloromethyl methyl ether | COC(Cl)Cl | C2H4Cl2O
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 4-benzyloxy-5,6,7,8-tetrahydro-naphthalene-1-carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=2CCCCC12)C=O | C18H18O2
